US07569578B2
(±)-tert-Butyl 1-(1-(3,5-difluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate
A mixture of tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (40 mg, 0.085 mmol), 3,5-difluoro benzyl bromide (11.5 μL, 0.089 mmol, 1.05 equiv) and potassium carbonate (23.5 mg, 0.17 mmol) in dimethylformamide (1.0 mL) was stirred at room temperature for 16 h. The solvents were removed and the residue purified by column chromatography to afford 40.0 mg (79%). Mass spec.: 598.4 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.085 mmol, 40 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 3,5-difluoro benzyl bromide | 0.089 mmol, 11.5 μL, 1.05 equiv | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
reactant | potassium carbonate | 0.17 mmol, 23.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 1-(1-(3,5-difluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | FC=1C=C(CN2C(=NC=C2)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=C(C1)F | C31H41F2N5O3Si
